US06133292
Step 1: (2S,5S)-2-(tert-butyl)-5-methyl-1,3-dioxolan-4-one
A mixture of L-Lactic acid (106 g of 85% in H2O), pivalaldehyde (220 mL), p-toluene sulfonic acid mono hydrate (2.0 g) and H2SO4 conc. (8 drops) in pentane (800 mL) was refluxed with azeotropic removal of the water formed using a Dean-Stark trap. The supernatant was decanted, washed with water, dried over MgSO4 and concentrated. The resulting residue was dissolved in hexane (800 mL) and cooled to -80° C. for 20 h. Crystals were collected by filtration in a cold room (5° C.) and washed with cold hexane (-78° C.). The crystals were dissolved in Et2O, dried over MgSO4 and concentred to give the title compound as a colorless oil. 1H NMR(CD3COCD3): δ0.95 (9H, s), 1.38 (3H,d), 4.47 (1H, m), 5.24 (1H, s).

reactant | L-Lactic acid | 106 g | C([C@@H](O)C)(=O)O | C3H6O3
reactant | pivalaldehyde | 220 mL | C(C(C)(C)C)=O | C5H10O
reactant | p-toluene sulfonic acid mono hydrate | 2.0 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | water | O | H2O
catalyst | H2SO4 | 8 drops | OS(=O)(=O)O | H2O4S
solvent | pentane | 800 mL | CCCCC | C5H12
product | (2S,5S)-2-(tert-butyl)-5-methyl-1,3-dioxolan-4-one | C(C)(C)(C)[C@H]1O[C@H](C(O1)=O)C | C8H14O3
